US05294618
Following the procedure of Example 1, step 3, 1.00 g (6.93 mmol) of 1-methyl-3,4-dihydronaphthalene in 7 ml of acetic acid was reacted with 2.25 ml of 37% formaldehyde solution and 2.16 g of cyclohexylamine hydrochloride. Work up gave 2.41 g of crude 3-cyclohexyl-1,2,3,4,5,6-hexahydro-benz[f]isoquinoline. Following the procedure of Example 2, this was reacted with 0.397 g of lithium wire in 200 ml of liquid ammonia, 40 ml of anhydrous THF and 1 ml of aniline. Chromatography on silica, eluting with 5-10% methanol/dichloromethane, then on alumina, eluting with 5-7% ethyl acetate/petroleum ether gave 0.333 g (18%) of the title product as a white solid. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent, the title product hydrochloride was obtained as a white solid, m.p. 281°-285° C. (dec). NMR δ(D2O) 1.16-1.96 (12H, m), 2.10 (2H, m), 2.69 (2H, m), 2.92-3.05 (3H, m), 3.20-3.31 (2H, m), 3.55 (1H, m), 3.69 (1H, m), 7.25-7.29 (3H, m), 7.35-7.36 (1H, m). m/z (CI+, NH3) 270 (M+H)+, 226.

reactant | 1-methyl-3,4-dihydronaphthalene | 6.93 mmol, 1.00 g | CC1=CCCC2=CC=CC=C12 | C11H12
reactant | formaldehyde | 2.25 ml | C=O | CH2O
reactant | cyclohexylamine hydrochloride | 2.16 g | Cl.C1(CCCCC1)N
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 3-cyclohexyl-1,2,3,4,5,6-hexahydro-benz[f]isoquinoline | 2.41 g | C1(CCCCC1)N1CC=2CCC3=C(C2CC1)C=CC=C3 | C19H25N
